US06576643B2
c) 2-[(3-Hydroxy-1-propyl)amino]-4-methylpyridine-N-oxide
A mixture of 2-chloro-4-methylpyridine-N-oxide hydrochloride (7.16 g, 39 mmole), 3-aminopropanol (6.01 g, 80 mmole), and NaHCO3 (16.8 g, 200 mmole) in tert-amyl alcohol (50 mL) was heated at reflux for 19 hr. The reaction mixture was diluted with CH2Cl2 (200 mL) and filtered, and the filtrate was concentrated on the rotavap. Recrystallization from CH2Cl2/Et2O gave the title compound (5.41 g, 75%) as a yellow solid: TLC (15% MeOH/CH2Cl2) Rf 0.44; 1H NMR (400, CDCl3) δ7.92 (d, J=6.7, 1 H), 7.28 (br t, 1 H), 6.43 (s, 1 H), 6.33 (dd, J=6.6, 2.1 Hz, 1 H), 3.73 (t, J=5.7 Hz, 2 H), 3.47 (q, H=6.3 Hz, 2 H), 2.29 (s, 3 H), 1.82-1.88 (m, 2 H); MS (ES) m/e 183 (M+H)+.

reactant | 2-chloro-4-methylpyridine-N-oxide hydrochloride | 39 mmole, 7.16 g | Cl.ClC1=[N+](C=CC(=C1)C)[O-]
reactant | 3-aminopropanol | 80 mmole, 6.01 g | NCCCO | C3H9NO
reactant | NaHCO3 | 200 mmole, 16.8 g | C(=O)(O)[O-].[Na+]
solvent | tert-amyl alcohol | 50 mL | C(C)(C)(CC)O | C5H12O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-[(3-Hydroxy-1-propyl)amino]-4-methylpyridine-N-oxide | 5.41 g, 75% | OCCCNC1=[N+](C=CC(=C1)C)[O-] | C9H14N2O2
